US05464796
7-Isopropyl-4-methylamino-1,3,3a,4,7,7a-hexahydroisoindole
50 g (0.24 mol) of 1-(tert.-butyloxycarbonylamino)-5-methyl-1,3-hexadiene are stirred together with 23 g (0.24 mol) of maleimide in 75 ml of ethanol and 75 ml of water under reflux for 24 hours. After cooling, the solid is filtered off with suction and rinsed with water to give, after drying, 56.3 g (76% of theory) of a solid of melting point 192°-195° C. 15 g (0.049 mol) are stirred together with 11 g (0.29 mol) of lithium aluminium hydride in 300 ml of tetrahydrofuran under reflux for 10 hours. After cooling, the mixture is hydrolysed with 10 ml of water, 10 ml of 10 per cent strength sodium hydroxide solution and finally 30 ml of water. The precipitate is filtered off with suction and rinsed with tetrahydrofuran and the combined filtrates are concentrated to dryness. 8.7 g of a solid are obtained and are purified by crystallisation (petroleum ether-ethyl acetate=1:5).

reactant | 1-(tert.-butyloxycarbonylamino)-5-methyl-1,3-hexadiene | 0.24 mol, 50 g | C(C)(C)(C)OC(=O)NC=CC=CC(C)C | C12H21NO2
reactant | maleimide | 0.24 mol, 23 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | lithium aluminium hydride | 0.29 mol, 11 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 7-Isopropyl-4-methylamino-1,3,3a,4,7,7a-hexahydroisoindole | 8.7 g | C(C)(C)C1C=CC(C2CNCC12)NC | C12H22N2
